US09193694B2
To a mixture of 4-bromo-2-tert-butoxypyridine (1.0 g, 4.34 mmol), bis(pinacolato)diboron (1.32 g, 5.22 mmol), potassium acetate (1.28 g, 13.0 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium methylene chloride complex (310 mg, 0.43 mmol) was suspended with degassed dioxane (15 mL) and heated at 85° C. for 60 min. The reaction mixture was diluted with EtOAc, washed with water and brine, dried (MgS(O)4), filtered and concentrated. The concentrate was purified by flash chromatography on silica gel eluding with 33% percent ethyl acetate/hexanes to afford the compound 2-tert-butoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine.

reactant | 4-bromo-2-tert-butoxypyridine | 4.34 mmol, 1.0 g | BrC1=CC(=NC=C1)OC(C)(C)C | C9H12BrNO
reactant | bis(pinacolato)diboron | 5.22 mmol, 1.32 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 13.0 mmol, 1.28 g | C(C)(=O)[O-].[K+]
reactant | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-tert-butoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | C(C)(C)(C)OC1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H24BNO3
